US07846956B2
0.73 g of [(1-propargyl-1H-pyrazol-4-yl)methylidene]malononitrile was dissolved in 10 ml of tetrahydrofuran, and 0.19 g of sodium borohydride was then added under ice-cooling. The mixture was stirred for 4 hours under ice-cooling. The reaction mixture was added to 0.5 N hydrochloric acid and then extracted with ethyl acetate. The organic layer was dried over anhydrous magnesium sulfate, filtered and then concentrated under reduced pressure. The residue was subjected to silica gel column chromatography to obtain 0.32 g of [(1-prop-2-ynyl-1H-pyrazol-4-yl)methyl]malononitrile.

reactant | [(1-propargyl-1H-pyrazol-4-yl)methylidene]malononitrile | 0.73 g | C(C#C)N1N=CC(=C1)C=C(C#N)C#N | C10H6N4
reactant | sodium borohydride | 0.19 g | [BH4-].[Na+]
reactant | hydrochloric acid | 0.5 N | Cl | ClH
solvent | tetrahydrofuran | 10 ml | O1CCCC1 | C4H8O
product | [(1-prop-2-ynyl-1H-pyrazol-4-yl)methyl]malononitrile | 0.32 g | C(C#C)N1N=CC(=C1)CC(C#N)C#N | C10H8N4
